US06433175B1
2-Methoxy-7,8,9,10-tetrahydro-6H-azepino[1,2-a]indole-11-carboxaldehyde
To a stirred solution of 5-methoxy-1-(5-iodopentyl)indole-3-carboxaldehyde in toluene at reflux under argon is added dropwise over 2 h a solution of 1,1′-azobis(cyclohexanecarbonitrile) and tri-n-butyltin hydride in toluene. The mixture is stirred for 3 h, cooled to room temperature, and potassium fluoride and water are added. The mixture is stirred for 18 h and filtered through a pad of kieselguhr. The filter-cake is washed (ethyl acetate) and the filtrate is concentrated in vacuo and purified by column chromatography to give the product.

reactant | 5-methoxy-1-(5-iodopentyl)indole-3-carboxaldehyde | COC=1C=C2C(=CN(C2=CC1)CCCCCI)C=O | C15H18INO2
reactant | 1,1′-azobis(cyclohexanecarbonitrile) | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
reactant | tri-n-butyltin hydride | C(CCC)[SnH](CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Methoxy-7,8,9,10-tetrahydro-6H-azepino[1,2-a]indole-11-carboxaldehyde | COC=1C=C2C(=C3N(C2=CC1)CCCCC3)C=O | C15H17NO2
